US07977488B2
tert-butyl methyl{[5-(4-methylpyridin-3-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate
tert-Butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate (431 mg), (4-methylpyridin-3-yl)boronic acid (206 mg), sodium hydrogencarbonate (253 mg) and tetrakis(triphenylphosphine)palladium (87 mg) were added to a degassed mixture of 1,2-dimethoxyethane (8 mL) and water (2 mL), and the mixture was stirred under a nitrogen atmosphere at 80° C. for 6 hr. The reaction mixture was allowed to cool, a saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=1:1→0:1) to give the title compound as a colorless oil (yield 230 mg, 52%).

reactant | tert-Butyl{[5-bromo-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}methylcarbamate | 431 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)Br)S(=O)(=O)C=1C=NC=CC1)=O | C16H20BrN3O4S
reactant | (4-methylpyridin-3-yl)boronic acid | 206 mg | CC1=C(C=NC=C1)B(O)O | C6H8BNO2
reactant | sodium hydrogencarbonate | 253 mg | C(O)([O-])=O.[Na+]
reactant | 1,2-dimethoxyethane | 8 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 87 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 2 mL | O | H2O
product | tert-butyl methyl{[5-(4-methylpyridin-3-yl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]methyl}carbamate | yield 230 mg, 52% | CN(C(OC(C)(C)C)=O)CC1=CN(C(=C1)C=1C=NC=CC1C)S(=O)(=O)C=1C=NC=CC1 | C22H26N4O4S
